US04791127
1.3 g of 4-isobutylthio-2-pyridone (m.p. 119° to 120° C.) and 0.7 ml of methanesulfonyl chloride were dissolved in 10 ml of methylene chloride, and cooled below 10° C. 1.5 ml of triethylamine was added dropwise to the solution with stirring. By stirring at room temperature for 4 hours, the reaction was completed. The reaction solution was poured into 100 ml of water, followed by addition of 100 ml of methylene chloride for separation. The methylene chloride layer was washed with water and saturated aqueous solution of common salt, then distilled to remove the solvent. The obtained residue was purified by silica-gel column chromatography (developer: benzene and n-hexane) to obtain 1.7 g of the objective 4-isobutylthio-2-pyridyl methanesulfonate (yield: 91.6%) as a colourless oil, which were allowed to stand to crystallization.

reactant | 4-isobutylthio-2-pyridone | 1.3 g | C(C(C)C)SC1=CC(NC=C1)=O | C9H13NOS
reactant | methanesulfonyl chloride | 0.7 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-isobutylthio-2-pyridyl methanesulfonate | 1.7 g, yield: 91.6% | CS(=O)(=O)OC1=NC=CC(=C1)SCC(C)C | C10H15NO3S2
